US06150522
Step 1E 2-{2-[7-chloro-2-oxo-6-(3-pyridin-4-yl-ureido)-3-thiophen-2-yl-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-[2-(6-amino-7-chloro-2-oxo-3-thiophen-2-yl-1,2-dihydroquinolin-4-yloxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester in dry methylene chloride at 0° C. is added phosgene followed by an excess of triethylamine and the mixture stirred for 1 hour at 0° C. At this time, 4-aminopyridine is added and the mixture allowed to warm to room temperature. Upon completion of the reaction, the mixture is diluted with ethyl acetate and the mixture quenched by the addition of 10% citric acid. The organic portion is concentrated in vacuo to provide the crude title compound.

reactant | 2-[2-(6-amino-7-chloro-2-oxo-3-thiophen-2-yl-1,2-dihydroquinolin-4-yloxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C=1SC=CC1 | C25H30ClN3O4S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{2-[7-chloro-2-oxo-6-(3-pyridin-4-yl-ureido)-3-thiophen-2-yl-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NC1=CC=NC=C1)Cl)=O)C=1SC=CC1 | C31H34ClN5O5S
